US04746657
8-[2-(1H-Imidazol-1-yl)ethyl]-6,7,8,9-tetrahydro-6-methyl-5H-pyrido[3,2-c]-azepin-5-one
To a solution of 8-(2-chloroethyl)-6,7,8,9-tetrahydro-6-methyl-5H-pyrido[3,2-c]azepin-5-one in dimethylformamide (DMF) is added imidazole. The solution is heated to about 130° C. for several hr. DMF is removed by evaporation in vacuo and the residue is taken up in chloroform. The chloroform solution is washed with dilute aqueous sodium hydroxie, dried over anhydrous sodium sulfate and concentrated on a rotary evaporator to give the title compound.

reactant | 8-(2-chloroethyl)-6,7,8,9-tetrahydro-6-methyl-5H-pyrido[3,2-c]azepin-5-one | ClCCC1CC2=C(C(N(C1)C)=O)C=CC=N2 | C12H15ClN2O
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-[2-(1H-Imidazol-1-yl)ethyl]-6,7,8,9-tetrahydro-6-methyl-5H-pyrido[3,2-c]-azepin-5-one | N1(C=NC=C1)CCC1CC2=C(C(N(C1)C)=O)C=CC=N2 | C15H18N4O
